US08357679B2
E: 1-(Cyclopropylmethyl)-3-(4-(4-((5-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)thiazol-2-yl)methyl)piperazine-1-carbonyl)phenyl)urea
To a stirring solution of 1,1,1,3,3,3-hexafluoro-2-(2-(hydroxymethyl)thiazol-5-yl)propan-2-ol (0.533 mmol, 150 mg) and triethylamine (1.600 mmol, 162 mg) in dichloromethane (4 mL) at 0° C. was added methanesulfonyl chloride (0.533 mmol, 61.1 mg). The mixture was stirred at 0° C. for 1 hour before warming to room temperature and stirring for 1 hour. The reaction mixture was diluted with dichloromethane (50 mL) and washed with water (2×20 mL). The organic phase was dried over magnesium sulfate, filtered and the filtrate was concentrated under reduced pressure. The resulting residue was dissolved in acetonitrile (4 mL) and 1-(cyclopropylmethyl)-3-(4-(piperazine-1-carbonyl)phenyl)urea (0.635 mmol, 192 mg) was added followed by potassium carbonate (1.905 mmol, 263 mg). The mixture was heated to reflux for 6 hours then was cooled, diluted with dichloromethane (75 mL) and washed with water (2×20 mL). The organic phase was dried over magnesium sulfate, filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by HPLC, strong cation exchange column chromatography and silica gel column chromatography (10% methanol/90% dichloromethane) to afford the title compound (1.5 mg).

reactant | 1,1,1,3,3,3-hexafluoro-2-(2-(hydroxymethyl)thiazol-5-yl)propan-2-ol | 0.533 mmol, 150 mg | FC(C(C(F)(F)F)(O)C1=CN=C(S1)CO)(F)F | C7H5F6NO2S
reactant | triethylamine | 1.600 mmol, 162 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.533 mmol, 61.1 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(cyclopropylmethyl)-3-(4-(piperazine-1-carbonyl)phenyl)urea | 0.635 mmol, 192 mg | C1(CC1)CNC(=O)NC1=CC=C(C=C1)C(=O)N1CCNCC1 | C16H22N4O2
reactant | potassium carbonate | 1.905 mmol, 263 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 1-(Cyclopropylmethyl)-3-(4-(4-((5-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)thiazol-2-yl)methyl)piperazine-1-carbonyl)phenyl)urea | 1.5 mg | C1(CC1)CNC(=O)NC1=CC=C(C=C1)C(=O)N1CCN(CC1)CC=1SC(=CN1)C(C(F)(F)F)(C(F)(F)F)O | C23H25F6N5O3S
